US03984467
By following a procedure similar to that described in Example 10 but substituting for 1-(4-nitrophenyl)-3-(pentanimidoyl)urea hydrochloride an equivalent amount of 1-(4-nitrophenyl)-3-(heptanimidoyl)-2-thiourea hydrochloride there is obtained 1-(4-aminophenyl)-3-(heptanimidoyl)-2-thiourea.

reactant | 1-(4-nitrophenyl)-3-(pentanimidoyl)urea hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NC(CCCC)=N
reactant | 1-(4-nitrophenyl)-3-(heptanimidoyl)-2-thiourea hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)NC(=S)NC(CCCCCC)=N
product | 1-(4-aminophenyl)-3-(heptanimidoyl)-2-thiourea | NC1=CC=C(C=C1)NC(=S)NC(CCCCCC)=N | C14H22N4S
